US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 4-acetoxybutanoate
A solution of N—((S)-1-(((S)-1-(((2S,4S)-4-Hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide (500 mg, 0.76 mmol) and DMAP (300 mg, 2.28 mmol) in pyridine (2 mL) was kept in a 30° C. oil bath. 4-(Acetoxy)butanoic anhydride (ca 7 mmol) in pyridine (1 mL) was added and the mixture was stirred 30 min at 30° C. It was diluted with water (20 mL) and dichloromethane (50 mL). The dichloromethane layer was separated and washed with 1N HCl (10 mL) and brine (10 mL). It was dried over sodium sulfate then concentrated to dryness. The residue was purified on silica gel column (dichloromethane:ethyl acetate=1.5:1) to give product as a white powder (300 mg, 50%); 1H NMR (300 MHz, CDCl3): δ 8.12 (s, 1H). 7.29-7.10 (m, 6H), 7.06-6.95 (m, 2H), 5.38-5.30 (m, 1H), 4.78-4.70 (m, 1H), 4.51-4.45 (m, 1H), 4.15 (t, J=6.6 Hz, 1H), 3.91-3.72 (m, 3H), 3.65-3.73 (m, 1H), 3.66-3.55 (m, 2H), 3.48 (s, 3H), 3.46-3.39 (m, 1H), 3.30 (s, 3H), 3.14-3.05 (m, 1H), 2.90-2.83 (m, 1H), 2.77 (s, 3H), 2.58-2.52 (m, 2H), 1.97-1.92 (m, 2H), 1.35 (s, 3H); MS for C31H41IN4O10S m/z: 789 (M+H)+.

reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-Hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | 0.76 mmol, 500 mg | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
reactant | 4-(Acetoxy)butanoic anhydride | ca 7 mmol | C(C)(=O)OCCCC(=O)OC(CCCOC(C)=O)=O | C12H18O7
catalyst | DMAP | 2.28 mmol, 300 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 4-acetoxybutanoate | 300 mg, 50% | C(C)(=O)OCCCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C | C31H41IN4O10S
